US08217200B2
2-hydroxyethoxy-acetic acid-N,N-dimethylamide
Into a round-bottom flask of the volume of 100 ml are transferred 50 ml dioxane and the solvent is cooled to 5° C. Subsequently 8.1 g (0.18 mole) dimethylamine is absorbed in the solvent at the temperature of 5-10° C. in 20 minutes. To the solution of dimethylamine, 10.2 g (0.1 mole) of [1,4]-dioxane-2-one are added at the same temperature in 5 minutes and the reaction mixture is stirred at room temperature for 2 hours. After the reaction period, the solvent is evaporated in vacuo at the temperature of 50° C. in one hour. Thus 14.1 g (95.9%) of the title product are obtained, which has the purity of 98% as determined by gas chromatography. Optionally the product can be purified by distilling in vacuo (boiling temperature 130-135° C./13 Pa). The raw product is directly suitable for the preparation of 2-chloroethoxy-acetic acid-N,N-dimethyl-amide.

reactant | dimethylamine | 0.18 mole, 8.1 g | CNC | C2H7N
reactant | [1,4]-dioxane-2-one | 0.1 mole, 10.2 g | O1C(COCC1)=O | C4H6O3
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-hydroxyethoxy-acetic acid-N,N-dimethylamide | 14.1 g, 95.9% | CN(C(COCCO)=O)C | C6H13NO3
